US05006570
Step II - Preparation of 5-Cyclopropylmethylthio-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid-Intermediate (G)
73 g of potassium hydroxide were dissolved in 84 ml of water in a 2-liter round-bottomed flask and 387 ml of absolute ethanol and 130.5 g of 5-mercapto-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid were then added. 86 g of cyclopropylmethyl bromide were then quickly poured in and the contents were heated under reflux for 1 hour. After adding water, the contents were filtered and the solution was acidified by adding concentrated hydrochloric acid until a color change of Congo red was observed. The precipitate formed was drained, washed with water and dried at 40° C.

reactant | potassium hydroxide | 73 g | [OH-].[K+]
reactant | ethanol | 387 ml | C(C)O | C2H6O
reactant | 5-mercapto-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid | 130.5 g | SC=1C=C(C2=C(CC(O2)C)C1)C(=O)O | C10H10O3S
reactant | cyclopropylmethyl bromide | 86 g | C1(CC1)CBr | C4H7Br
solvent | water | 84 ml | O | H2O
product | 5-Cyclopropylmethylthio-2-methyl-2,3-dihydrobenzofuran-7-carboxylic acid | C1(CC1)CSC=1C=C(C2=C(CC(O2)C)C1)C(=O)O | C14H16O3S
